* Z:\home\jg\hack\bytelights_detector\bass_detector.asc
V1 5V 0 5
B1 in 0 V=0.05*sin(6.283*(Fs+(Fe-Fs)/te*time/2)*time)
C2 P001 in2 10e-6
XU1 vg N003 5V 0 N001 TL084
R3 vg 0 10e3
R6 5V vg 10e3
R1 N003 P001 10k
R2 N001 N003 40k
C1 N001 N003 33n
XU2 vg N004 5V 0 N002 TL084
R4 N002 N004 40k
C3 N002 N004 33n
R5 N004 N001 10k
V2 in2 0 PWL file=Z:\home\jg\hack\bytelights_detector\wav.0.05.csv
XU3 N002 N005 5V 0 N008 TL084
XU4 N002 N005 5V 0 N007 TL084
D1 N008 N005 1N4148
C4 0 N005 10µ
R7 0 N005 1e6
R11 N006 5V 10k
R8 N007 0 100k
XU5 N006 N007 0 2n7002l
.model D D
.lib C:\users\jg\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 {Te} 0 {1/(10*Fe)}
.param Fs=0 Fe=17e3 Te=1
.lib TL084.lib
* in2 = from file (cvs from a wav)\nin  = sweep adult human hearing range
* filter 1 + amp in
* filter 2
* threshold tracker \n(check eevblog 490)
* comparator
* clean + invert peaks for the MCU
.lib 2N7002L.REV0.onsemi.LIB
.backanno
.end
